US07592358B2
50.5a. tert-butyl(4-bromo-2-methylphenyl)acetate
Under an argon atmosphere 39.6 mL (39.6 mmol; 1M in hexane) of lithium-hexamethyldisilazane was added to a suspension of 145 mg (0.65 mmol) of palladium (II) acetate and 875 mg (2.22 mmol) of 2-dicyclohexylphosphino-2-(N,N-dimethylamino)biphenyl in 40 mL of toluene and the reaction solution was stirred for 10 minutes at RT. Then the mixture was cooled to −10° C. and combined with 3.30 mL (24.5 mmol) of tert-butyl acetate (dried over basic Alox). 4.00 mL (22.2 mmol) of 4-bromo-1-iodo-2-methylbenzene were quickly added at −10° C. and the reaction solution was heated to RT. After the reaction was complete, the reaction solution was diluted with water and EtOAc. The organic phase was separated off, washed with aqueous ammonium chloride solution and water, and dried over magnesium sulfate. After the desiccant and solvent had been eliminated, the residue was purified by chromatography (silica gel, PE/EtOAc 9:1). Yield: 2.0 g (32% of theoretical; 45% content of product according to 1H-NMR); C13H17BrO2 (M=285.177).

reactant | lithium hexamethyldisilazane | 39.6 mmol, 1M, 39.6 mL | [Li].C[Si](N[Si](C)(C)C)(C)C
reactant | 2-dicyclohexylphosphino-2-(N,N-dimethylamino)biphenyl | 2.22 mmol, 875 mg | C1(CCCCC1)P(C1(C(=CC=CC1)C1=CC=CC=C1)N(C)C)C1CCCCC1 | C26H38NP
reactant | tert-butyl acetate | 24.5 mmol, 3.30 mL | C(C)(=O)OC(C)(C)C | C6H12O2
reactant | 4-bromo-1-iodo-2-methylbenzene | 22.2 mmol, 4.00 mL | BrC1=CC(=C(C=C1)I)C | C7H6BrI
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | palladium (II) acetate | 0.65 mmol, 145 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | tert-butyl(4-bromo-2-methylphenyl)acetate | C(C)(C)(C)OC(CC1=C(C=C(C=C1)Br)C)=O | C13H17BrO2
